US07125896B2
b) (1S,4S)-5-(4-Bromobenzyl)-2-oxa-5-azabicyclo[2.2.1]heptane
(1S,4S)-(+)-2-Aza-5-oxabicyclo[2.2.1]heptane hydrochloride (1.26 g), 4-bromobenzyl bromide (2.32 g) and triethylamine (3.88 ml) were stirred in dimethylformamide (30 nml) for 18 h. The mixture was partitioned between diethyl ether (60 ml) and water (60 ml) and the organic phase was washed further with water (60 ml), dried (MgSO4), concentrated in vacuo and purified by Bondelute® chromatography, eluting with 0–100% ethyl acetate/iso-hexane to give the product as an orange oil (1.91 g).

reactant | (1S,4S)-(+)-2-Aza-5-oxabicyclo[2.2.1]heptane hydrochloride | 1.26 g | Cl.[C@@H]12NC[C@@H](OC1)C2
reactant | 4-bromobenzyl bromide | 2.32 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triethylamine | 3.88 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (1S,4S)-5-(4-Bromobenzyl)-2-oxa-5-azabicyclo[2.2.1]heptane | 1.91 g | BrC1=CC=C(CN2[C@@H]3CO[C@H](C2)C3)C=C1 | C12H14BrNO
